data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_166635_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:5]([O:8][H:9])([H:11])[C:6]([H:12])=[C:2]([H:10])[O:7]1>>[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:5]([H:11])=[C:6]([H:12])[C:2]([O:8][H:9])([H:10])[O:7]1,58.2640024999975
MR_651600_2,[C:1]12([C:5]([N:7]([H:12])[H:13])([H:16])[H:17])[C:2]([N:6]([H:10])[H:11])([H:8])[C:3]1([H:9])[C:4]2([H:14])[H:15]>>[C:1]1(/[C:2](=[N:6]/[H:11])[H:8])([C:5]([N:7]([H:12])[H:13])([H:16])[H:17])[C:3]([H:9])([H:10])[C:4]1([H:14])[H:15],53.48872749996204
MR_519668_0,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([H:9])[H:10])([O:6][C:2](/[C:5](=[N:7]/[H:11])[H:14])([H:12])[H:13])[H:8]>>[C:1](=[C:3]([H:15])[H:17])([N:4]([H:9])[H:10])[O:6][C:2]([C:5]([N:7]([H:11])[H:16])([H:8])[H:14])([H:12])[H:13],56.55029999997254
MR_228544_1,[C:1]([C:2]([C:8](=[C:6]([C:4]([H:20])([H:21])[H:22])[C:5]([H:19])([H:23])[H:24])[H:15])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])([C:7](=[O:10])[H:12])[O:9][H:11]>>[C:1]1([C:3]([H:16])([H:17])[H:18])([O:9][H:11])[C:2]([H:13])([H:14])[C:8]1([C:6]([C:4]([H:20])([H:21])[H:22])([C:5]([H:19])([H:23])[H:24])[C:7](=[O:10])[H:12])[H:15],71.9824074999967
MR_299812_0,[C:1]1([H:10])([H:11])[C:4]([N:6]([H:8])[H:9])=[C:5]([C:3]([H:14])([H:15])[H:16])[C:2]([H:12])([H:13])[O:7]1>>[C:1](=[C:4]([C:5]1([C:3]([H:14])([H:15])[H:16])[C:2]([H:12])([H:13])[O:7]1)[N:6]([H:8])[H:9])([H:10])[H:11],71.32353249998374
MR_501360_1,[C:1]([C:2](=[C:4]([H:12])[H:13])[O:5][H:7])(/[C:3](=[N:6]\[H:8])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:4](/[C:3](=[N:6]\[H:8])[H:11])([H:12])[H:13])[O:5][H:7])([H:9])[H:10],68.01911749997998
MR_279817_0,[C:1]([C:4](=[C:5]([C:2]([H:11])([H:12])[H:16])[C:3]([H:13])([H:14])[H:15])[N:6]=[O:7])([H:8])([H:9])[H:10]>>[C:1]([C:4]1=[N:6][O:7][C:5]1([C:2]([H:11])([H:12])[H:16])[C:3]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],35.91307999999941
MR_314527_1,[C:1](/[C:3](=[C:4]([C:2]([H:18])([H:19])[H:20])\[C:7](=[C:8](/[N:6]([H:11])[H:12])[H:14])[H:13])[N:5]([H:9])[H:10])([H:15])([H:16])[H:17]>>[C:1]([C@:3]1([N:5]([H:9])[H:10])[C:4]([C:2]([H:18])([H:19])[H:20])=[C:7]([H:13])[C@:8]1([N:6]([H:11])[H:12])[H:14])([H:15])([H:16])[H:17],46.46951249999191
MR_157378_1,[C:1]([N:2]([H:9])[H:10])([C:3](=[O:6])[H:11])([O:4][H:7])[O:5][H:8]>>[C:1]([N:2]([H:9])[H:10])([C:3]([O:5][H:8])=[O:6])([O:4][H:7])[H:11],24.924927500026826
MR_20072_0,[C:1]([C:3](/[C:4](=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:8])[H:7])=[C:6]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([C:3]1=[C:4]([H:7])[C:5]([C:2]([H:14])([H:15])[H:16])([H:8])[C:6]1([H:12])[H:13])([H:9])([H:10])[H:11],46.30008749999163
MR_390536_0,[C:1]1([C:5](/[C:6]([C:4]([H:15])([H:16])[H:17])=[N:7]/[H:10])=[O:8])([H:9])[C:2]([H:11])([H:12])[C:3]1([H:13])[H:14]>>[C:1](\[C:2](=[C:3]([H:13])[H:14])[H:12])(=[C:5]([C:6](/[C:4]([H:15])([H:16])[H:17])=[N:7]/[H:10])\[O:8][H:11])[H:9],59.15756250002431
MR_100047_1,[C:1]1([H:8])([H:9])[C:4]([C@:5]2([H:13])[C:2]([H:11])([H:12])[C:3]2=[C:6]([H:14])[H:15])([H:10])[O:7]1>>[C:1]1([H:8])([H:9])[C:3](=[C:6]([H:14])[H:15])[C:2]([H:11])([H:12])[C:5]([H:13])=[C:4]([H:10])[O:7]1,52.60395249998439
MR_465834_0,[C:1](/[C:3](=[N:7]\[H:10])[H:11])([O:4][H:8])(/[N:5]=[N:6]/[C:2]([H:12])([H:13])[H:14])[H:9]>>[C:1](\[O:4][H:8])(=[N:5]/[N:6]([C:2]([H:12])([H:13])[H:14])/[C:3](=[N:7]\[H:10])[H:11])[H:9],64.25725499995409
MR_424494_2,[C:1]([C:2]([O:6][H:8])([H:12])[H:13])([O:4][N:3]([H:10])[H:11])([O:5][H:7])[H:9]>>[C:1]([N:3]([H:10])[H:11])([O:4][C:2]([O:6][H:8])([H:12])[H:13])([O:5][H:7])[H:9],53.5320249999954
MR_26534_1,[C:1]([N:2]([H:5])[H:6])([C:3](=[O:4])[H:7])([H:8])[H:9]>>[C@@:1]1([N:2]([H:5])[H:6])([H:8])[C:3]([H:7])([H:9])[O:4]1,54.41366249998097
MR_138367_0,[N:1](/[C:2]([N:3]([H:8])[H:9])=[N:5]\[H:10])([N:4]=[O:6])[H:7]>>[N:1](=[N:4]\[O:6]/[C:2]([N:3]([H:8])[H:9])=[N:5]\[H:10])\[H:7],31.99183250001923
MR_346096_0,[C:1](/[N:6]=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:3](/[N:5]=[N:7]/[H:9])[H:8])([H:10])([H:11])[H:12]>>[C:1](/[N:6]=[C:4](/[C:2]([H:13])([H:14])[H:15])[N:7](/[N:5]=[N:3]/[H:8])[H:9])([H:10])([H:11])[H:12],36.123292500003714
MR_75598_0,[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([C:6](=[O:8])[H:12])[H:11])([C:3]([C:5]([H:18])([H:19])[H:20])([H:13])[H:14])([O:7][H:9])[H:10]>>[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([C:6]([C:3]([C:5]([H:18])([H:19])[H:20])([H:13])[H:14])([O:8][H:9])[H:12])[H:11])(=[O:7])[H:10],67.9996650000291
MR_36934_0,[C:1]([C:3]([N:2]([N:4]([H:8])[H:9])/[C:5](=[N:6]\[H:10])[H:11])=[O:7])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[N:2]/[N:4]([H:8])[H:9])[O:7]/[C:5](=[N:6]\[H:10])[H:11])([H:12])([H:13])[H:14],48.06838250002144
MR_439352_2,[N:1](=[C:2](\[N:4]([H:11])[H:12])[N:6]([N:3]([H:9])[H:10])/[N:5]=[N:7]/[H:13])\[H:8]>>[N:1](/[C:2]([N:4]([H:11])[H:12])=[N:6]/[N:3]([H:9])[H:10])(/[N:5]=[N:7]\[H:13])[H:8],41.95590500000918
